US06903215B2
A mixture of 550 mg (1.58 mmol) of 2-[3-(tert-butyldimethylsilanyloxy)-4,4,4-trifluoro-1,1-dimethylbutyl]pyridine in 4.5 mL (4.5 mmol) of tetrabutylammonium fluoride (1.0 M solution in THF) was stirred at room temperature for 2 hours. The mixture was concentrated in vacuo and the residue was purified by flash chromatography to give 367 mg (99%) of 1,1,1-trifluoro-4-methyl-4-pyridin-2-ylpentan-2-ol as a light yellow oil.

reactant | 2-[3-(tert-butyldimethylsilanyloxy)-4,4,4-trifluoro-1,1-dimethylbutyl]pyridine | 1.58 mmol, 550 mg | [Si](C)(C)(C(C)(C)C)OC(CC(C)(C)C1=NC=CC=C1)C(F)(F)F | C17H28F3NOSi
reactant | tetrabutylammonium fluoride | 4.5 mmol, 1.0 M, 4.5 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1,1,1-trifluoro-4-methyl-4-pyridin-2-ylpentan-2-ol | 367 mg, 99% | FC(C(CC(C)(C1=NC=CC=C1)C)O)(F)F | C11H14F3NO
